US06531491B1
4-Bromo-2-methoxy-5-methyl-phenol (see Chien-Hsun et al., Syn. Lett., 12, 1351-1352 (1997)) was stirred in dry CH2Cl2 (100 mL) at 23° C. DIEA (6.05 mL, 34.6 mmol), and then 2-(trimethylsilyl)ethoxymethyl chloride (5.6 mL, 31.7 mmol) were added. After stirring for 1 h, the solution was washed with H2O, 0.1 N HCl, H2O, saturated NaHCO3, and brine (25 mL each). Organics were dried (Na2SO4) and concentrated in vacuo. Purification by silica gel chromatography (6% ethyl acetate/hexanes) gave 9.06 g (91%) of [2-(4-bromo-2-methoxy-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane as a clear oil. 1H NMR (300 MHz, CDCl3) δ 7.06 (s, 1H), 7.02 (s, 1H), 5.24 (s, 2H), 3.84 (s, 3H), 3.79 (t, 2H, J=8.4 Hz), 2.31 (s, 3H), 0.96 (t, 2H, J=8.4 Hz), 0.01 (s, 9H).

reactant | 4-Bromo-2-methoxy-5-methyl-phenol | BrC1=CC(=C(C=C1C)O)OC | C8H9BrO2
reactant | DIEA | 34.6 mmol, 6.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 31.7 mmol, 5.6 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | [2-(4-bromo-2-methoxy-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane | 9.06 g, 91% | BrC1=CC(=C(OCOCC[Si](C)(C)C)C=C1C)OC | C14H23BrO3Si
